US05334740
Two grams of ethyl (2-(tert-butyldimethylsilyloxymethyl)-3,4-(dimethylmethylenedioxy)-5-(1-ethoxyethoxy) cyclohexylidene)acetate were dissolved in 10 ml of dry toluene, and 4.7 ml of diisobutyl aluminum hydride (2N hexane solution, 9.4 mmol) was added at -78° C., followed by stirring the mixture for 3 hours. After stirring at 0° C. for 5 minutes, a 10% sulfuric acid aqueous solution was added gradually until the reaction mixture became white. The reaction mixture was extracted with diethyl ether. The extract was washed with a sodium hydrogen carbonate aqueous solution and a saturated sodium chloride aqueous solution in sequence. The organic layer was dried over anhydrous magnesium sulfate, and concentration was effected under reduced pressure. The obtained residue was purified by silica gel column chromatography to give 1.47 g of (2-(tert-butyldimethylsilyloxymethyl)-3,4-(dimethylmethylenedioxy)-5-(1-ethoxyethoxy)cyclohexylidene) ethanol having the following properties.

reactant | ethyl (2-(tert-butyldimethylsilyloxymethyl)-3,4-(dimethylmethylenedioxy)-5-(1-ethoxyethoxy) cyclohexylidene)acetate | Two grams | [Si](C)(C)(C(C)(C)C)OCC1C(CC(C2C1OC(O2)(C)C)OC(C)OCC)=CC(=O)OCC | C24H44O7Si
reactant | diisobutyl aluminum hydride | 9.4 mmol, 2N, 4.7 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | (2-(tert-butyldimethylsilyloxymethyl)-3,4-(dimethylmethylenedioxy)-5-(1-ethoxyethoxy)cyclohexylidene) ethanol | 1.47 g | [Si](C)(C)(C(C)(C)C)OCC1C(CC(C2C1OC(O2)(C)C)OC(C)OCC)=C(C)O | C22H42O6Si
